US06737417B2
Diethyl 2-[7-[6-methoxy-2-(4-methoxyphenyl)napht-1-yl]heptyl]-2-(4,4,5,5,5-pentafluoropentyl)malonate (1.02 g, 1.5 mmol) was dissolved in ethanol (10 ml). To this solution, sodium hydroxide (1.2 g, 30 mmol) and water (1 ml) were added, and the resulting mixture was heated under reflux for 3 hours. Dilute hydrochloric acid was added to the reaction mixture, which was then extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous sodium sulfate. The solvent was distilled off to give 2-[7-[6-methoxy-2-(4-methoxyphenyl)napht-1-yl]heptyl]-2-(4,4,5,5,5-pentafluoropentyl)malonic acid (1.0 g).

reactant | Diethyl 2-[7-[6-methoxy-2-(4-methoxyphenyl)napht-1-yl]heptyl]-2-(4,4,5,5,5-pentafluoropentyl)malonate | 1.5 mmol, 1.02 g | COC=1C=C2C=CC(=C(C2=CC1)CCCCCCCC(C(=O)OCC)(C(=O)OCC)CCCC(C(F)(F)F)(F)F)C1=CC=C(C=C1)OC | C37H45F5O6
reactant | sodium hydroxide | 30 mmol, 1.2 g | [OH-].[Na+]
reactant | water | 1 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-[7-[6-methoxy-2-(4-methoxyphenyl)napht-1-yl]heptyl]-2-(4,4,5,5,5-pentafluoropentyl)malonic acid | 1.0 g | COC=1C=C2C=CC(=C(C2=CC1)CCCCCCCC(C(=O)O)(C(=O)O)CCCC(C(F)(F)F)(F)F)C1=CC=C(C=C1)OC | C33H37F5O6
